US05637554
90.3 g (0.3 mol) of 1,4-dihydro-2,6-dimethyl-4-phenyl-3,5-bis(carboxymethyl)pyridine were added in portions at from 92° to 98° C. to a solution of 375 g of 98% strength nitric acid in 1580 ml of water in the course of 30 minutes. After a further 30 minutes at 95°-98° C., the mixture was cooled to +5° C. and brought to pH 9 with solid potassium carbonate. The mixture was extracted three times with methylene chloride, the combined extracts were concentrated under reduced pressure and the residue was crystallized at 0° C. using 1:1 diethyl ether/pentane (50 ml). 58.8 g (65.5% of theory) of 2,6-dimethyl-4-phenyl-3,5-bis(carboxymethyl)pyridine were obtained as white crystals of m.p. 137°-138° C.

reactant | 1,4-dihydro-2,6-dimethyl-4-phenyl-3,5-bis(carboxymethyl)pyridine | 0.3 mol, 90.3 g | CC=1NC(=C(C(C1CC(=O)O)C1=CC=CC=C1)CC(=O)O)C | C17H19NO4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1580 ml | O | H2O
product | 2,6-dimethyl-4-phenyl-3,5-bis(carboxymethyl)pyridine | 58.8 g, 65.5% | CC1=NC(=C(C(=C1CC(=O)O)C1=CC=CC=C1)CC(=O)O)C | C17H17NO4
